US09255090B2
8-(4-Carboxymethoxy-phenyl)-5-fluoro-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester (C25H22NO5F, MW=435.15)
To a mixture under N2 of 8-bromo-5-fluoro-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester (72.8 mg, 0.2 mmol, 1.0 eq.), 4-hydroxybenzeneboronic acid (41.4 mg, 0.3 mmol, 1.5 eq.) and sodium carbonate (127.2 mg, 1.2 mmol, 6.0 eq.) in toluene/MeOH/water 20:4:1 (4 mL), tetrakis(triphenylphosphine) palladium (0) (17.4 mg, 0.015 mmol, 0.08 eq) was added and the mixture was stirred under reflux at 100° C. for 72 hours. The mixture was allowed to cool to r.t. and concentrated in vacuo. The residue was partitioned between AcOEt (10 mL) and water (10 mL). The layers were separated. The org. phase was washed with sat. aq. NaCl soln. (1×5 mL), dried over MgSO4 and filtered through Celite. The filtrate was concentrated in vacuo. The residue was purified by flashmaster (column: 25 g, flow: 30 mL/min, 30 fractions of 30 mL, Heptane 100% to Heptane+40% AcOEt) to yield a colorless oil. To a solution of the colorless oil and K2CO3 (82.9 mg, 0.6 mmol, 3.0 eq.) in DMF (0.7 mL), ethyl bromoacetate (66 pt, 0.6 mmol, 3.0 eq.) was added. The mixture was stirred at r.t. for 2 hours. 1M aq. NaOH soln. (0.54 mL) was added and the mixture stirred at r.t. for 18 hours. Formic acid was added (0.2 mL). The resulting acidic mixture was purified by prep. HPLC (column: Waters Xbridge, 30×75 mm, 10 um, UV/MS, acidic conditions) and concentrated in vacuo to give the title compound as a yellow oil.

reactant | 8-bromo-5-fluoro-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester | 0.2 mmol, 72.8 mg, 1.0 eq. | C(C1=CC=CC=C1)OC(=O)N1CC2=C(C=CC(=C2CC1)F)Br | C17H15BrFNO2
reactant | 4-hydroxybenzeneboronic acid | 0.3 mmol, 41.4 mg, 1.5 eq. | OC1=CC=C(C=C1)B(O)O | C6H7BO3
reactant | sodium carbonate | 1.2 mmol, 127.2 mg, 6.0 eq. | C([O-])([O-])=O.[Na+].[Na+]
reactant | K2CO3 | 0.6 mmol, 82.9 mg, 3.0 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl bromoacetate | 0.6 mmol, 3.0 eq. | BrCC(=O)OCC | C4H7BrO2
reactant | NaOH | 1M | [OH-].[Na+]
solvent | toluene MeOH water | 4 mL | C1(=CC=CC=C1)C.CO.O
solvent | DMF | 0.7 mL | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine) palladium (0) | 0.015 mmol, 17.4 mg, 0.08 eq | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | Formic acid | C(=O)O | CH2O2
product | 8-(4-Carboxymethoxy-phenyl)-5-fluoro-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CC2=C(C=CC(=C2CC1)F)C1=CC=C(C=C1)OCC(=O)O | C25H22FNO5
